US09447036B2
Magnesium chloride (dry, 241 mg, 2.53 mmol) was put in a flask under a nitrogen atmosphere and acetonitrile (3.5 mL) was added. The mixture was stirred for five minutes at room temperature. Diethyl [(methylsulfonyl)methyl]phosphonate (500 mg, 2.17 mmol) was added. After 10 minutes stirring the magnesium chloride was nearly dissolved. Triethylamine (378 μL, 2.72 mmol) was added and after 10 minutes at room temperature a slightly orange solution was obtained. Then 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone (468 mg, 94% purity, 1.81 mmol) was added. After thirty minutes water (10 mL) and toluene (10 mL) were added and the phases were separated. After extracting the aqueous phase with toluene (10 mL) the combined organic phases were dried over sodium sulfate, filtered and the solvents evaporated. 2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfone was obtained (540 g, >98% purity, 78% yield, E/Z (not assigned)=56/44).

reactant | Magnesium chloride | 2.53 mmol, 241 mg | [Cl-].[Mg+2].[Cl-]
reactant | Diethyl [(methylsulfonyl)methyl]phosphonate | 2.17 mmol, 500 mg | CS(=O)(=O)CP(OCC)(OCC)=O | C6H15O5PS
reactant | Triethylamine | 2.72 mmol, 378 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(3,5-dichlorophenyl)-2,2,2-trifluoroethanone | 1.81 mmol, 468 mg | ClC=1C=C(C=C(C1)Cl)C(C(F)(F)F)=O | C8H3Cl2F3O
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 2-(3,5-dichlorophenyl)-3,3,3-trifluoroprop-1-en-1-yl phenyl sulfone | 78% yield | C1(=CC=CC=C1)S(=O)(=O)C=C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C15H9Cl2F3O2S
